US05051515
5-[7-(1-methyltetrazol-5-yl)thioheptyl]-3-methyl isoxazole (1)
7-(3-methylisoxazole-5-yl)heptylbromide (520 mg, 0.002 mol) was added to a mixture of 1-methyltetrazole thiol (232 mg, 0.002 mol) and potassium carbonate (276 mg, 0.002 mol) in anhydrous acetone (20 ml) while stirring.The mixture was heated under reflux for 3 hours. After cooling, the mixturewas filtered and the filtrate was concentrated under reduced pressure. The residual oil as dissolved in dichloromethane (50 ml), washed with water (50 ml×2), with 5% aqueous solution of potassium hydroxide (10 ml) and again with water (50 ml×2). The organic layer was dried over sodium sulfate. Removal of the solvent gave a yellow oil (600 mg) which was purified by elution from a silica gel column using methanol-dichloromethane (5:95) as an eluant to give 80% (472 mg) of a colorless oil.

reactant | 7-(3-methylisoxazole-5-yl)heptylbromide | 0.002 mol, 520 mg | CC1=NOC(=C1)CCCCCCCBr | C11H18BrNO
reactant | 1-methyltetrazole thiol | 0.002 mol, 232 mg | CN1N=NN=C1S | C2H4N4S
reactant | potassium carbonate | 0.002 mol, 276 mg | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 20 ml | CC(=O)C | C3H6O
product | 5-[7-(1-methyltetrazol-5-yl)thioheptyl]-3-methyl isoxazole | 600 mg | CN1N=NN=C1SCCCCCCCC1=CC(=NO1)C | C13H21N5OS
